.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' sf
.temp 27
* PEX produced on Sun Aug 23 04:53:23 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from ota.ext - technology: gf180mcuD

.option scale=5n

.subckt ota IBIAS OUT INN INP VSS VDD
X0 a_n4022_7056# a_n4022_7056# VDD VDD pfet_03v3 ad=84n pd=1.612m as=84n ps=1.612m w=1500 l=800
X1 VDD a_n4022_7056# OUT VDD pfet_03v3 ad=0.18u pd=3.24m as=84n ps=1.612m w=1500 l=800
X2 VDD a_n4022_7056# a_n4022_7056# VDD pfet_03v3 ad=84n pd=1.612m as=84n ps=1.612m w=1500 l=800
X3 a_n4022_7056# INN a_n1006_3846# VSS nfet_03v3 ad=0.144u pd=2.64m as=0.144u ps=2.64m w=1200 l=400
X4 OUT a_n4022_7056# VDD VDD pfet_03v3 ad=84n pd=1.612m as=0.18u ps=3.24m w=1500 l=800
X5 VDD a_n4022_7056# OUT VDD pfet_03v3 ad=84n pd=1.612m as=84n ps=1.612m w=1500 l=800
X6 IBIAS IBIAS VSS VSS nfet_03v3 ad=48n pd=1.04m as=48n ps=1.04m w=400 l=400
X7 a_n1006_3846# IBIAS VSS VSS nfet_03v3 ad=67.2n pd=1.312m as=0.144u ps=2.64m w=1200 l=800
X8 VDD a_n4022_7056# a_n4022_7056# VDD pfet_03v3 ad=0.18u pd=3.24m as=84n ps=1.612m w=1500 l=800
X9 a_n4022_7056# a_n4022_7056# VDD VDD pfet_03v3 ad=84n pd=1.612m as=0.18u ps=3.24m w=1500 l=800
X10 OUT a_n4022_7056# VDD VDD pfet_03v3 ad=84n pd=1.612m as=84n ps=1.612m w=1500 l=800
X11 OUT INP a_n1006_3846# VSS nfet_03v3 ad=0.144u pd=2.64m as=0.144u ps=2.64m w=1200 l=400
X12 VSS IBIAS a_n1006_3846# VSS nfet_03v3 ad=0.144u pd=2.64m as=67.2n ps=1.312m w=1200 l=800
C0 INP a_n1006_3846# 0.38946f
C1 OUT a_n1006_3846# 0.693f
C2 INN a_n1006_3846# 0.40864f
C3 OUT VDD 5.59854f
C4 IBIAS a_n1006_3846# 0.83317f
C5 OUT a_n4022_7056# 2.57144f
C6 a_n4022_7056# INN 0.31333f
C7 a_n4022_7056# a_n1006_3846# 0.76264f
C8 VDD a_n4022_7056# 25.7218f
C9 OUT INP 0.32108f
C10 IBIAS VSS 9.64258f
C11 INP VSS 1.08697f
C12 INN VSS 1.08519f
C13 OUT VSS 2.83354f
C14 VDD VSS 74.3164f
C15 a_n1006_3846# VSS 6.37999f ; **FLOATING
C16 a_n4022_7056# VSS 3.42476f ; **FLOATING
.ends
XDUT IBIAS OUT INN INP VSS VDD ota
VVDD VDD 0 3.0
VVSS VSS 0 0
VINP INP 0 PWL(0us 1.65 0.5us 1.65 0.51us 2.15
+ 2.5us 2.15 2.51us 1.15 4.5us 1.15 4.52us 1.65 6us 1.65) AC 1
VINN INN 0 DC 1.65
CLOAD OUT 0 5p
IIB 0 ibias_inj DC 20u
VMON ibias_inj IBIAS 0
.control
op
print v(OUT) i(vvdd)
ac dec 401 1 1G
wrdata ac.dat vdb(OUT) vp(OUT)
quit
.endc
.end